### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 1]
```diff
@@ -49,16 +49,7 @@ class Ideal.FiniteHeight : Prop where
...
-  · intro h
-    cases h.eq_top_or_height_ne_top with
-    | inl h => exact Or.inl h
-    | inr h => exact Or.inr (lt_of_le_of_ne le_top h)
-  · intro h
-    constructor
-    cases h with
-    | inl h => exact Or.inl h
-    | inr h => exact Or.inr (ne_top_of_lt h)
+  rw [Ideal.finiteHeight_iff, lt_top_iff_ne_top]
```
Comment (grunweg) [inline Mathlib/RingTheory/Ideal/Height.lean:52]: Nice one!

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 2]
```diff
@@ -422,7 +422,6 @@ theorem IsNormal.le_iff_eq {f} (H : IsNormal f) {a} : f a ≤ a ↔ f a = a :=
 theorem IsNormal.le_set {f o} (H : IsNormal f) (p : Set Ordinal) (p0 : p.Nonempty) (b)
     (H₂ : ∀ o, b ≤ o ↔ ∀ a ∈ p, a ≤ o) : f b ≤ o ↔ ∀ a ∈ p, f a ≤ o :=
   ⟨fun h _ pa => (H.le_iff.2 ((H₂ _).1 le_rfl _ pa)).trans h, fun h => by
-    -- Porting note: `refine'` didn't work well so `induction` is used
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:425]: Flagging this in case a maintainer wants to take a look.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
The removing of the porting note LGTM, thanks!

bors merge
